US05973149
In Methyl Acetate/1,2-dichloroethane 30/70 by Volume Respectively Medium
Example 17 was repeated using ethyl acetate instead of isopropyl acetate and 1,2-dichloroethane instead of toluene.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | Methyl Acetate 1,2-dichloroethane | C(C)(=O)OC.ClCCCl | InChI=1S/C3H6O2.C2H4Cl2/c1-3(4)5-2;3-1-2-4/h1-2H3;1-2H2
